US05541178
3-Chloro-4-hydroxy-5-nitrobenzoic acid
Sulphuric acid (83%, 20 ml) was cooled in an ice-bath, and 3-chloro-4-hydroxybenzoic acid (4 g, 22 mM) stirred in. After 10 minutes, nitric acid (70%, 1.43 ml, 22 mM) was run in, and the mixture stirred at 0° for 2 hours. After pouring onto ice, the solid was filtered, and recrystallised from aqueous ethanol to give title compound as yellow crystals (2.1 g, 44%).

reactant | 3-chloro-4-hydroxybenzoic acid | 22 mM, 4 g | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | nitric acid | 22 mM, 1.43 ml | [N+](=O)(O)[O-] | HNO3
solvent | Sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Chloro-4-hydroxy-5-nitrobenzoic acid | 2.1 g, 44% | ClC=1C=C(C(=O)O)C=C(C1O)[N+](=O)[O-] | C7H4ClNO5
